US04788206
As described in Example 99, (E)-3-(4-methoxyphenyl)-3-phenyl-2-propenal (8.7 g) was reacted with (carbomethoxymethylene)triphenylphosphorane (14.2 g) in carbon tetrachloride (50 mL) and dichloromethane (5 mL) overnight at room temperature. The crude ester was isolated in the usual manner and was purified by HPLC (ether-hexane; 3:17) to yield 8.6 g of (E,E)-5-(4-methoxyphenyl)-5-phenyl-2,4-pentadienoic acid methyl ester. Crystallization of a portion from ethyl acetate-hexane gave the analytical specimen, mp 88°-89.5° C. Anal. Calcd for C19H18O3 : C, 77.53; H, 6.19 Found: C, 77.40; H. 6.18

reactant | (E)-3-(4-methoxyphenyl)-3-phenyl-2-propenal | 8.7 g | COC1=CC=C(C=C1)/C(=C/C=O)/C1=CC=CC=C1 | C16H14O2
reactant | (carbomethoxymethylene)triphenylphosphorane | 14.2 g | C(=O)(OC)C=P(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | C21H19O2P
solvent | carbon tetrachloride | 50 mL | C(Cl)(Cl)(Cl)Cl | CCl4
solvent | dichloromethane | 5 mL | ClCCl | CH2Cl2
product | (E,E)-5-(4-methoxyphenyl)-5-phenyl-2,4-pentadienoic acid methyl ester | 8.6 g | COC(\C=C\C=C(/C1=CC=CC=C1)\C1=CC=C(C=C1)OC)=O | C19H18O3
